* Z:\home\ciga\uni\lab\catena_elettronica\simulations\catena_tot\shaper_bode.asc
V1 V+ 0 +12
V2 V- 0 -12
XU1 N008 N005 V+ V- N005 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
R1 N008 0 100.2k
R2 N007 N005 100.1k
C1 N007 0 0.103n
C2 N008 N002 0.102n
XU2 N007 N003 V+ V- N004 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
R1a N003 0 32.8k
R2a N004 N003 188.5k
XU3 0 N001 V+ V- N002 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
V3 N006 0 SINE(0 1 1k 0 0 0) AC 1 0
Rf_pre N002 N001 816k
Rin N001 N006 82k
Cf_pre N002 N001 0.189n
R3 N008 N002 1570k
.ac dec 9000u 10 1000k
.lib UniversalOpamps2.sub
.backanno
.end
