* Z:\home\ciga\uni\lab\catena_elettronica\simulations\shaper\shaper_pole0.asc
V1 V+ 0 +12
V2 V- 0 -12
XU1 N003 N004 V+ V- N004 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
R1 N003 0 100.2k
R2 Vout N004 100.1k
C1 Vout 0 0.103n
C2 N003 N002 0.102n
XU2 0 N001 V+ V- N002 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
VG2 N005 0 PULSE(0 -1 0 0.5u 0.5u 5u 300 1) AC 1 0
RG1 Vin N005 600
R3 N002 N001 816k
C3 N002 N001 0.189n
R4 N001 Vin 82k
R5 N003 N002 1570k
.tran 140u
.lib UniversalOpamps2.sub
.backanno
.end
